Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Headache, blurry vision 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old Gravida 4 Para 3 post partum day #4 status-post 
spontaneous vaginal delivert presents with headache and blurry 
vision. She reports she developed a headache yesterday which did 
not respond to Motrin so she took her blood pressure at home and 
it was ___. She presented to ___ given 
that it was close her home. There her blood pressures were 
160s/100
and she received 60 mg Labetalol IV. She had an episode of 
blurry vision in the ED where she saw "spots" but the visual 
changes resolved spontaneously. Per report her labs including 
hematocrit, creatinine and liver function tests were within 
normal limits at the outside hospital ED. She was transferred to 
___ ED.

Here her blood pressures remained elevated at 151/103 and she 
received Hydralazine 10 mg IV x 1 with good effect and her blood 
pressures improved to
140/90s. She was started on Magnesium with a 2 gram bolus and 
she was transferred to L&D for further management. 

Here, she continues to have a mild headache but has not had any
NSAIDs or Tylenol. The blurry vision has resolved. She denies 
CP,
SOB, RUQ pain.

She is s/p SVD ___. Her blood pressure at the time of delivery
were in the 140s/80s and a P:C ratio was 0.3. Her labs were
otherwise normal and she denied symptoms of PEC at that time. 
She does have a history of PP HTN which required treatment with
Nifedipine in the past but she denies cHTN and she has never had
a diagnosis of PEC in the past.

 
Past Medical History:
Past OB History: Gravida 4 Para 3, Spontaneous vaginal delivery  
x 3. One delivery complicated by postpartum hypertension as 
above but no previous history of preeclampsia. 
Past Gyn History: ASCUS pap in the past with normal follow up

Past Medical History:
-History of anxiety - used zoloft after ___ pregnancy, no meds 
currently
-History of hiatal hernia/reflux

Past Surgical History
-s/p T&A and wisdom teeth extraction

 
Social History:
Denies tobacco/ethanol/drugs
 
Physical Exam:
Admission Physical Exam:
No acute distress
Clear to auscultation bilaterally 
Regular rate and rhythm
Abdomen soft
DTR +2

 
Pertinent Results:
CBC:
___ 07:50PM BLOOD WBC-7.9 RBC-4.13* Hgb-13.3 Hct-38.4 
MCV-93 MCH-32.1* MCHC-34.6 RDW-13.1 Plt ___
Coags: 
___ 07:50PM BLOOD ___ PTT-26.2 ___
Chemistry: 
___ 07:50PM BLOOD Glucose-95 UreaN-14 Creat-0.7 Na-142 
K-3.9 Cl-106 HCO3-22 AnGap-18
LFT: 
___ 07:50PM BLOOD ALT-39 AST-28 AlkPhos-172* TotBili-0.3
 
Brief Hospital Course:
Ms. ___ was transferred from the ED to Labor & Delivery for 
further management of postpartum preeclampsia. She was given a 4 
gm IV bolus of magnesium (2gm bolus + 2gm bolus) and 2gm/hour 
infusion for a total of 24 hours which she tolerated well. Given 
persistently elevated blood pressures despite IV labetalol and 
hydralazine, she was started on Nifedipine 30 CR with a good 
response in blood pressures afterwards. Prior to discharge her 
blood pressures were 130s/80s. She had no symptoms of 
preeclampsia prior to discharge. Ms. ___ was discharged home 
in stable condition on hospital day#2. 

 
Medications on Admission:
None
 
Discharge Medications:
1. nifedipine 30 mg Tablet Extended Release Sig: One (1) Tablet 
Extended Release PO DAILY (Daily).
Disp:*30 Tablet Extended Release(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
rest
Take Nifedipine
 
Followup Instructions:
___